US07932269B2
[(4-Chloropheyl)-(3-methoxy-benzenesulfonyl)-amino]-acetic acid (intermediate 1)
To a solution of [(4-chlorophenyl)-(3-methoxy-benzenesulfonyl)-amino]-acetic acid methyl ester (1.03 g, 2.7 mmol) in THF (20 mL) was added an aqueous solution (10 mL) of lithium hydroxide monohydrate (168 mg, 4.0 mmol) slowly under ice-cooled condition. The reaction mixture was stirred for 2 h at 25° C. THF was evaporated in vacuo and water was added. The mixture was washed with diethyl ether. The aqueous layer was acidified with 1(N) hydrochloride acid to pH 6, and extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with water, dried (Na2SO4), and evaporated under reduced pressure to yield the title compound as pure solid compound, which used as such in the final coupling reaction. Yield: 810 mg (84%).

reactant | [(4-chlorophenyl)-(3-methoxy-benzenesulfonyl)-amino]-acetic acid methyl ester | 2.7 mmol, 1.03 g | COC(CN(S(=O)(=O)C1=CC(=CC=C1)OC)C1=CC=C(C=C1)Cl)=O | C16H16ClNO5S
reactant | lithium hydroxide monohydrate | 4.0 mmol, 10 mL, 168 mg | O.[OH-].[Li+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [(4-Chloropheyl)-(3-methoxy-benzenesulfonyl)-amino]-acetic acid | ClC1=CC=C(C=C1)N(S(=O)(=O)C1=CC(=CC=C1)OC)CC(=O)O | C15H14ClNO5S
